US05084466
A solution of 2.0 g of methyl p-[2-(p-amidinobenzenesulphonamido)ethyl]phenoxyacetate hydrochloride in 100 ml of ethanol and 50 ml of 1N sodium hydroxide solution was stirred under argon for 90 minutes. For the working up, dilute hydrochloric acid was used to neutralize to pH 6-7, and the mixture was concentrated in vacuo up to 50° C. The crystals which separated out were filtered off with suction and dried over KOH in vacuo at 50° C. 1.70 g of pure p-[2-(p-amidinobenzenesulphonamido)ethyl]phenoxyacetic acid, melting point 292°-293° C., were thus isolated.

reactant | methyl p-[2-(p-amidinobenzenesulphonamido)ethyl]phenoxyacetate hydrochloride | 2.0 g | Cl.C(N)(=N)C1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(OCC(=O)OC)C=C1
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1N, 50 ml | [OH-].[Na+]
product | p-[2-(p-amidinobenzenesulphonamido)ethyl]phenoxyacetic acid | 1.70 g | C(N)(=N)C1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(OCC(=O)O)C=C1 | C17H19N3O5S
